US04178460
Preparation of α-Isopropyl-3-fluoro-4-methoxyphenylacetonitrile
A mixture of 3-fluoro-4-methoxyphenylacetonitrile (30 g, 0.18 mol), 2-bromopropane (27.7 g, 0.225 mol), benzyltriethylammonium chloride (2.3 g, 0.01 mol) and sodium hydroxide solution (50%, 66 ml) is heated at 55° for 1 hour and cooled. The mixture is diluted with water, extracted with ether, washed with water, 1 NHCl, water, and dried (Na2SO4). Evaporation gives the product as a brown oil (30.7 g). NMR spectrum shows the benzylic proton as a doublet at 3.6 δ.

reactant | 3-fluoro-4-methoxyphenylacetonitrile | 0.18 mol, 30 g | FC=1C=C(C=CC1OC)CC#N | C9H8FNO
reactant | 2-bromopropane | 0.225 mol, 27.7 g | BrC(C)C | C3H7Br
reactant | sodium hydroxide | 66 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 0.01 mol, 2.3 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | O | H2O
product | α-Isopropyl-3-fluoro-4-methoxyphenylacetonitrile | 30.7 g | C(C)(C)C(C#N)C1=CC(=C(C=C1)OC)F | C12H14FNO
